US07790898B2
1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]2phenyl ethanone
The compound of Example 27 was prepared according to the general preparation protocol A from phenylacetyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | 1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]2phenyl ethanone | OC1(CN(CCC1)C(CC1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C20H23NO3
